US04547510
E-8-(2-Methoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline
5,6,7,8-Tetrahydro-3-methylquinoline (6.6 g) was added to o-anisaldehyde (8.16 g) in acetic anhydride (10 ml) and was heated to reflux for 14 hours after which the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (50 ml) and was added to 2N HCl (150 ml), the aqueous layer was basified (Na2CO3) and extracted with ethyl acetate (4×100 ml) dried (MgSO4) and evaporated under reduced pressure. The residue was washed with several aliquots of hot hexane and was then dissolved in a small volume of boiling propan-2-ol and etherial hydrogen chloride was added in excess. On cooling a precipitate formed and was removed by filtration, washed with ether and dried under vacuum to give the title compound as the hydrochloride salt (2.6 g) m.p. 221°-222.5° C.

reactant | 5,6,7,8-Tetrahydro-3-methylquinoline | 6.6 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | o-anisaldehyde | 8.16 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | E-8-(2-Methoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline | COC1=C(\C=C\2/CCCC=3C=C(C=NC23)C)C=CC=C1 | C18H19NO
